US07432277B2
tert-Butyl methyl(2-oxoethyl)carbamate
To a solution of tert-butyl 2-hydroxyethyl(methyl)carbamate (24.52 g, 140 mmol) in 340 mL dichloromethane and 85 mL DMSO was added 39 mL (279.8 mmol) of triethylamine and the reaction mixture stirred at ambient temperature under N2. To this was added 45 g (280 mmol) of pyridine sulfur trioxide, portionwise. Exotherm was observed and the solution became clear dark yellow. Cooled to 0° C. and stirred for 1 hour 20 minutes. Monitored by TLC (10% methanol in dichloromethane). Concentrated to a total volume of ˜250 mL. Washed with 3×250 mL H2O then 250 mL NaCl (sat). Dried over MgSO4, filtered, and solvent evaporated. Distilled at 75° C. (3 mm Hg) to provide 13.83 g of a clear liquid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 140 mmol, 24.52 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | triethylamine | 279.8 mmol, 39 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine sulfur trioxide | 280 mmol, 45 g | S(=O)(=O)=O.N1=CC=CC=C1
reactant | methanol | CO | CH4O
solvent | dichloromethane | 340 mL | ClCCl | CH2Cl2
solvent | DMSO | 85 mL | CS(=O)C | C2H6OS
product | tert-Butyl methyl(2-oxoethyl)carbamate | 13.83 g | CN(C(OC(C)(C)C)=O)CC=O | C8H15NO3
